US06284785B1
e) (RS)-2-(3-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine
To a stirred solution of (RS)-2-(3-fluoro-phenyl)-pyrrolidine (0.24 g, 1.45 mmol) and triethylamine (0.40 ml, 2.87 mmol) in dichloromethane (40 ml) was added at 0° C. toluene-4-sulfonyl chloride (0.42 g, 2.20 mmol). The mixture was stirred at RT for 16 h, evaporated, dissolved in water (40 ml) and extracted with ethyl acetate (2×40 ml). The combined organic layers were washed with water (40 ml), brine (40 ml), dried (MgSO4) and evaporated. The crude product was purified by crystallization from ethyl acetate/hexane to give the product (0.38 g, 83%) as a white solid, m.p. 116° C. and MS: m/e=319 (M+).

reactant | (RS)-2-(3-fluoro-phenyl)-pyrrolidine | 1.45 mmol, 0.24 g | FC=1C=C(C=CC1)C1NCCC1 | C10H12FN
reactant | triethylamine | 2.87 mmol, 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | toluene-4-sulfonyl chloride | 2.20 mmol, 0.42 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (RS)-2-(3-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | 0.38 g, 83% | FC=1C=C(C=CC1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C17H18FNO2S
